datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([C:6](=[C:7]([H:21])[H:22])[H:20])([H:18])[H:19])([H:16])[H:17])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]1([C:7]([H:21])[H:22])[H:20],13.3888
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])=[C:3]([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:16])([H:10])([H:11])[H:12].[H:22]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])[C:3]([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])([H:16])[H:22])([H:10])([H:11])[H:12],14.6858
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])[H:8])[H:7].[C:13](=[C:14]([H:16])[H:17])[H:15]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])([C:5]#[C:6][H:12])[C:13](=[C:14]([H:16])[H:17])[H:15])[H:8])[H:7],3.43088
[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7].[C:14](=[C:15]([C:16]([C:17]([H:22])([H:23])[H:24])[C:18]([H:25])([H:26])[H:27])[H:21])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[C:16]([C:15](=[C:14]([H:19])[H:20])[H:21])([C:17]([H:22])([H:23])[H:24])[C:18]([H:25])([H:26])[H:27])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7],26.2755
[C:0](=[C:1]([O:2][O:3][H:11])[C:4](=[C:5]([H:12])[H:13])[C:6]([C:7]([H:14])([H:15])[H:16])[C:8]([H:17])([H:18])[H:19])([H:9])[H:10]>>[C:0](=[C:1]1[O:2][C:6]([C:7]([H:14])([H:15])[H:16])([C:8]([H:17])([H:18])[H:19])[C:4]1=[C:5]([H:12])[H:13])([H:9])[H:10].[O:3][H:11],75.8559
[C:0]([S:1][S:2][C:3]([H:7])([H:8])[H:9])([H:4])([H:5])[H:6].[C:10]([S:11])([H:12])([H:13])[H:14]>>[C:0]([H:4])([H:5])[H:6].[S:1]([S:2][C:3]([H:7])([H:8])[H:9])[S:11][C:10]([H:12])([H:13])[H:14],43.0952
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[H:13]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][H:13],0.8368
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7]([C:8]([S:9][H:15])[C:10](=[S:11])[H:16])([H:12])([H:13])[H:14]>>[C:0](=[C:1]([S:2])[H:5])([H:3])[H:4].[H:6][C:8]([C:7]([H:12])([H:13])[H:14])([S:9][H:15])[C:10](=[S:11])[H:16],59.8312
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])=[C:5]([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])[H:10])([H:8])[H:9].[H:20]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])[C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[H:20])[H:10])([H:8])[H:9],1.046
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11]([C:12]([S:13])([H:17])[H:18])([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[H:17])[H:6])([H:4])[H:5].[C:11]([C:12](=[S:13])[H:18])([H:14])([H:15])[H:16],-2.3012
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[O:17][H:18]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][O:17][H:18],-2.138024
[C:0]([C:1]([C:2]([O:3][O:4][H:12])([H:10])[H:11])([O:5][O:6][H:13])[H:9])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([O:5][O:6][H:13])([H:9])[C:2]([H:10])([H:11])[O:3]1.[O:4][H:12],77.404
[C:0](=[C:1]([C:2]1([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5]([H:13])=[C:6]1[H:14])[H:9])([H:7])[H:8].[H:15]>>[C:0](=[C:1]([C:2]1([H:10])[C:3]([H:11])([H:15])[C:4]([H:12])[C:5]([H:13])=[C:6]1[H:14])[H:9])([H:7])[H:8],3.7656
[C:3]([C:4](=[S:5])[H:8])([H:6])[H:7].[S:0]([H:1])[H:2]>>[H:1][C:3]([C:4](=[S:5])[H:8])([H:6])[H:7].[S:0][H:2],49.3712
[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6][H:10])[H:14])([H:12])[H:13])[H:11])([H:7])([H:8])[H:9],77.404
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[C:14]([C:15]([C:16]([H:27])([H:28])[H:29])([c:17]1[c:18]([H:30])[c:19]([H:31])[c:20]([H:32])[c:21]([H:33])[c:22]1[H:34])[H:26])([H:23])([H:24])[H:25]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[H:26])[H:7])([H:5])[H:6].[C:14]([C:15]([C:16]([H:27])([H:28])[H:29])[c:17]1[c:18]([H:30])[c:19]([H:31])[c:20]([H:32])[c:21]([H:33])[c:22]1[H:34])([H:23])([H:24])[H:25],40.5848
[C:0](=[C:1]([C:2]([C:3](=[C:4]([C:5]([C:6]([C:7]([H:19])([H:20])[H:21])=[C:8]([C:9](=[C:10]([H:24])[H:25])[H:23])[H:22])([H:17])[H:18])[H:16])[H:15])[H:14])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1([H:14])[C:3]([H:15])=[C:4]([H:16])[C:5]([H:17])([H:18])[C:6]([C:7]([H:19])([H:20])[H:21])[C:8]1([C:9](=[C:10]([H:24])[H:25])[H:23])[H:22])[H:13])([H:11])[H:12],130.457
[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[O:5][O:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2](=[C:3]([H:13])[H:14])[C:4]([H:15])([H:16])[H:17])([H:10])[H:11])([H:7])([H:8])[H:9].[O:5][O:6][H:12],123.428
